US09326973B2
A stirred mixture of 4,4-difluoropiperidine/HCl (158 mg), benzyl 2-bromo-2-methylpropanoate (257 mg) and TEA (0.279 mL) in acetonitrile (1.5 mL) in a capped vial was heated at 85° C. overnight. The reaction mixture was evaporated to dryness and the residue was dissolved in ether, washed with satd. NaHCO3, water, brine and dried (MgSO4). The crude product was purified by silica gel FCC (0-1% MeOH in DCM) to afford benzyl 2-(4,4-difluoropiperidin-1-yl)-2-methylpropanoate as a viscous oil (33.7 mg). 1H NMR (400 MHz, CDCl3) δ ppm 7.31-7.46 (5H, m), 5.18 (2H, s), 2.66 (4H, t, J=5.40 Hz), 1.86-2.08 (4H, m), 1.36 (6H, s). Benzyl 2-(4,4-difluoropiperidin-1-yl)-2-methylpropanoate was debenzylated by hydrogenation (10% Pd/C, EtOAc) to afford Cap P-16 as a beige solid. 1H NMR (400 MHz, CDCl3) δ ppm 3.00 (4H, br. s.), 2.18-2.43 (4H, m), 1.45 (6H, s).

reactant | 4,4-difluoropiperidine HCl | 158 mg | FC1(CCNCC1)F.Cl
reactant | benzyl 2-bromo-2-methylpropanoate | 257 mg | BrC(C(=O)OCC1=CC=CC=C1)(C)C | C11H13BrO2
solvent | acetonitrile | 1.5 mL | C(C)#N | C2H3N
product | benzyl 2-(4,4-difluoropiperidin-1-yl)-2-methylpropanoate | 33.7 mg | FC1(CCN(CC1)C(C(=O)OCC1=CC=CC=C1)(C)C)F | C16H21F2NO2
